Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Altered Mental status, difficulty speaking
 
Major Surgical or Invasive Procedure:
Lumbar Puncture
 
History of Present Illness:
Mr. ___ is an ___ yo right handed man who presents for
evauation of decreased mentation.  The history was obtained from
the patient's family as the patient is currently unable. 

Mr. ___ is typically alert and independent.  Three days ago he
began to become incontinent at night, which was new for him.  He
was given depends to wear at night but then his incontinence was
also occuring during the day.  Yesterday during the day, he 
began
to appear confused.  Per his son, he was playing cards and had a
hard time dealing the cards and understanding the game (which he
previously knew well).  Yesterday evening he was called to 
dinner
but he was unable to get up from his chair.  With assistance, he
was able to walk but he appeared to have difficulty moving his
legs and he would have fallen if he was not held up.  He sat 
down
at the table to eat, but he was silent during the meal.  His
daughter-in-law noted that he appeared to have problems using 
his
utensils- as if he couldn't figure out how much food to put on
them.  He had no difficultly bringing them to his mouth.  

This AM, the patient seemed to have difficulty speaking, not
answering most questions but occasionally nodding yes or no or
giving one word answers.  At times he would have a blank stare
and be slow to respond.   He was taken to ___
where vitals were BP 124/58, RR 16, Temp 98.3.  The patient
underwent CT which raised concern for a frontal hemorrhage.  He
was also felt to have a UTI and he was treated with ceftriaxone. 

Because of his possible hemorrhage, he was transferred to ___
for further eval.

The patient is unable to offer a ROS.  Family says no recent
fevers, chills, stool has been normal.  He has had no complaints
of headache or any other discomfort.  They note he has lost alot
of weight this year. 

 
Past Medical History:
- Hypertension 
- s/p prostetectomy
- s/p cataract surgery
- h/x of left arm fracture requiring surgery.

 
Social History:
___
Family History:
Unknown- parents may have died of "old age"

 
Physical Exam:
VSS
General: Awake, laying in bed, appears comfortable.  Thin.
Head and Neck: Poor dentition with many fillings. No cranial
abnormalities, no scleral icterus noted, mmm, no lesions noted 
in
oropharynx. 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs clear to auscultation bilaterally  
Cardiac: distant heart sounds. No murmurs appreciated.
Abdomen: soft, non-tender, normoactive bowel sounds, no masses 
or
organomegaly noted. 
Extremities: 2+ radial, DP pulses bilaterally. 
Skin: no rashes or lesions noted.
 
Neurologic: 
-Mental Status: Awake. Cannot state his name, even when asked in
his primary language.  He does repeat his name when spoken to
him.  He repeats my name, says "fine" when asked how he is, 
shakes head
no when asked if he has pain. Does not name object.  Will follow
some but not all commands (lifts legs off bed, raise arms). 

-Cranial Nerves: 
PERRL 3 to 2mm and brisk.  Blinks to threat. Poor tracking, but
grossly full and full on passive movement. No facial droop,
facial musculature symmetric. Palate elevates symmetrically.  
Tongue protrudes in midline.
 
-Motor: DEcreased muscle bulk throughout. Normal tone. Right
pronator drift. No rigidity. No adventitious movements, such as
tremors, noted. No asterixis. Unable to perform full strength
exam, but moves all limbs symmetrically.  
 
-Sensory: Withdraws to pinprick in all 4 limbs.
 
-Deep tendon reflexes: 
    Bi Tri ___ Pat Ach 
L   2   2+    2    2   1 
R   2   2+    2    2   1 
Plantar response was flexor bilaterally. 
 
-Coordination: Cannot assess

-Gait: deferred.
By the time of discharge, the patient was alert, but only 
intermittently able to vocalize responses- appropriate answers, 
but simple one-two word responses in primary language. Strength 
in right upper extremity was essentially full, but continued to 
have right leg weakness. There was no ataxia noted.  
 
Pertinent Results:
___ 06:10PM   ___ PTT-21.3* ___
___ 06:10PM   PLT COUNT-250
___ 06:10PM   NEUTS-53.2 LYMPHS-17.5* MONOS-4.6 EOS-23.9* 
BASOS-0.8
___ 06:10PM   WBC-8.5 RBC-3.86* HGB-12.2* HCT-35.5* MCV-92 
MCH-31.6 MCHC-34.2 RDW-13.7
___ 06:10PM   TRIGLYCER-68 HDL CHOL-40 CHOL/HDL-4.5 
LDL(CALC)-125
___ 06:10PM   CALCIUM-9.1 PHOSPHATE-3.0 MAGNESIUM-1.9 
CHOLEST-179
___ 06:10PM   GLUCOSE-95 UREA N-14 CREAT-1.1 SODIUM-135 
POTASSIUM-4.7 CHLORIDE-100 TOTAL CO2-23 ANION GAP-17
___ 06:10PM   ALT(SGPT)-12 AST(SGOT)-19 LD(LDH)-162 ALK 
PHOS-89 TOT BILI-0.4
___ 06:10PM   LIPASE-37
___ 06:10PM   cTropnT-<0.01
___ 06:10PM   CK-MB-1
*************
___ EEG: This is an abnormal extended routine EEG due to 
mild 
generalized slowing of background with superimposed left 
hemispheric 
focal slowing with rare blunted sharp waves in this region. 
These 
findings are indicative of a mild generalized encephalopathy 
with focal 
left hemispheric subcortical dysfunction. The blunted sharp 
waves did 
not meet the criteria for epileptiform discharges. No 
electrographic 
seizures were present in this record. 
************

___- CT/CT angiogram of Head and Neck:  
1. Ectasia but no steno-occlusive disease or aneurysm larger 
than 2mm 
invoving the intracranial arteries. 
  
2. Approximately 50% stenosis in the proximal to mid-cervical 
left internal 
carotid artery with ulcerative plaque. Further evaluation with 
dedicated 
sonography of the cervical vessels is recommended.  
  
3. Right hilar lymphadenopathy measuring up to 1.8 cm, 
incompletely 
visualized on this study. Given right apical scarring, this may 
be due to 
granulomatous disease. However, other etiologies, including 
neoplasm, are not 
excluded. 
*************

___- Echocardiogram: 
The left atrium is normal in size. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers (though views were technically 
suboptimal). Left ventricular wall thicknesses are normal. The 
left ventricular cavity size is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) are mildly thickened. Mild (1+) aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The left ventricular 
inflow pattern suggests impaired relaxation. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.  
*************

___- Carotid Artery Ultrasound:
1. Less than 40% stenosis in the bilateral internal carotid 
arteries. 
2. Prominent homogeneous plaque at the proximal left internal 
carotid artery. 

 
Brief Hospital Course:
Mr ___ was admitted for further workup. His exam was notable 
for being able to obey simple non-verbal commands, but not ones 
that required verbal responses with mild right sided weakness. 
.
The initial CT showed diffuse cerebral atrophy, with evidence of 
an old small stroke in the Left thalamus, but no acute bleed. He 
was unable to tolerate lying on his back for the initial MRI, 
and when it was repeated the results were severely limited 
because of the significant dental artifact. He became more alert 
over 3 days, but on HD#3 developed increased right sided 
weakness, concerning for a progression of his symptoms and 
evolving intracranial process. A CT/CT angiogram was done and 
did not show any parenchymal changes, but did show a possibly 
ulcerated plaque in left carotid artery. Follow up ultrasound 
did not reveal this ulceration, however he clinically appeared 
to have suffered a stroke. An MRI was attempted but of limited 
use given the patient's extensive dental fillings that caused 
artifact. An LP was also obtained to rule out an infectious 
eitiology to explain his symptoms, but this was negative. In 
further discussion with the family, it was determined that Mr. 
___ might also have had some slowly progressing loss of verbal 
ability, though this was difficult to assess as he primarily 
lived in ___ and spoke with the family only intermittently. 
.
He was maintained on higher dose of aspirin (325 mg), and 
started on pravastatin for an LDL of 125. ___ therapies 
were consulted, and they recommended an ___ rehab facility 
to assist with recovery. Given that the patient is originally 
from ___, the traveller's insurance that he obtained would not 
cover the expense of an ___ rehabilitation stay. 
.
The family was deciding between placing him in a ___ 
rehab facility vs. having him taken care of at home with 
visiting ___/ and speech therapy. Ulitmately, they decided to 
bring him home with services to be provided in house. A home 
safety evaluation was ordered for after discharge. 
.
FEN/GI: Initially some concern for aspiration, but was cleared 
by video swallow study for regular vegetarian diet. 
.
Heme/CV: Initally home medication of amlodipine was held, but 
was restarted on HD #5 due to hypertension. The next morning he 
had an apparent presyncopal episode during physical therapy, and 
his blood pressures were ___. Thus, his amlodipine dose was 
decreased by half and he will continue this dose until follow up 
with his new PCP. 
.
A follow up appointment with Dr. ___ PCP) and Dr. ___ 
(___) was made for shortly after discharge. 

 
Medications on Admission:
Amlodipine 5md daily
Asa 75mg daily
Multivitamin 

 
Discharge Medications:
1. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. amlodipine 2.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).
Disp:*30 Tablet(s)* Refills:*2*
4. simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Presumed left fronto/temporal stroke (unconfirmable by imaging)

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr ___, 
You were admitted to ___ following a few days where you had 
trouble with incontinence, confusion, difficulty walking, and 
speech arrest. A head CT was done on admission and showed 
changes related to aging and an old stroke in the region of the 
brain called the thalamus (on left), but no acute bleed or 
masses. 
.
An EEG was done initially because there was a thought you might 
be having seizures, but there was just some "spike" activity 
without seizure recorded. A trial of Keppra was done but was 
stopped because it did not help your clinical picture.
. 
On your third hospital day, you developed what appeared to be 
worsening weakness on your right side, and so a CT/ with 
angiogram was done to evaluate the blood vessels in the brain. 
There were no changes on the CT, but the angiogram showed a 
possible plaque in the internal carotid artery that could have 
sent small clots up into the smaller vessels in the brain. An 
ultrasound of the carotid artery was done and was limited by 
motion, but did not show evidence of a plaque that could throw 
clots. 
.
A lumbar puncture was done to rule out any infections, and was 
within normal limits. Over the next few days, you clinically 
appreared to have suffered a stroke, though the MRI attempt was 
unsuccessful due to your extensive dental fillings. You were 
started on high dose aspirin, simvastatin for an elevated LDL, 
and recieved intensive physical/occupational/and speech therapy 
during the admission. Your speech improved a little bit and you 
were able to follow simple commands, but you still required much 
support with walking, which prevented your discharge for a few 
days. 
.
At the time of discharge, you were maintained on HALF the dose 
of your blood pressure medication (2.5 mg amplodipine daily), 
and this should be continued after discharge. You will have 
follow up with a new primary care doctor, ___ also 
with Dr. ___. 
 
Followup Instructions:
___